US07696213B2
2-Amino-4-methyl-8-pyrrolidin-1-ylpyrido[2,3-d]pyrimidin-7(8H)-one
To a microwave vial was added 2-(2,5-dimethyl-1H-pyrrol-1-yl)-4-methyl-8-(pyrrolidin-1-yl)pyrido[2,3,d]pyrimidin-7(8H)-one (530 mg, 1.64 mmol) hydroxamine hydrochloride (1.14 g, 16.4 mmol) ethanol (20 ml) and water (2.92 ml). The vial was capped and refluxed at 100° C. After 3 h, the reaction mixture was concentrated to dryness under reduced pressure and the resulting residue was purified by column chromatography eluted with 10% 7N NH3 in MeOH:CHCl3 to give the desired product weighted 296 mg 74%

reactant | 2-(2,5-dimethyl-1H-pyrrol-1-yl)-4-methyl-8-(pyrrolidin-1-yl)pyrido[2,3,d]pyrimidin-7(8H)-one | 1.64 mmol, 20 ml, 530 mg | CC=1N(C(=CC1)C)C=1N=C(C2=C(N1)N(C(C=C2)=O)N2CCCC2)C | C18H21N5O
solvent | water | 2.92 ml | O | H2O
product | 2-Amino-4-methyl-8-pyrrolidin-1-ylpyrido[2,3-d]pyrimidin-7(8H)-one | NC=1N=C(C2=C(N1)N(C(C=C2)=O)N2CCCC2)C | C12H15N5O
